### PR TITLE
Strong, commutative, idempotent, monoidal monads

### PR DESCRIPTION
**Pull request by ncfavier**
# Description

A small pile of definitions and results about monads, culminating in the equivalence between (symmetric) monoidal monads and (symmetric) commutative monads.

## Checklist

Before submitting a merge request, please check the items below:

- [X] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [X] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [X] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

File: src/Cat/Monoidal/Strength/Monad.lagda.md [hunk 1]
```diff
@@ -0,0 +1,404 @@
...
+pseudo-Haskell program (in `do` notation, then in two possible
+desugared forms):
+
+<div class="mathpar">
+```haskell
+do
+  a ← ma ∷ M A
+  b ← mb ∷ M B
+  pure (a , b)
+```
```
Comment (ncfavier) [inline src/Cat/Monoidal/Strength/Monad.lagda.md:90]: This snippet somehow generates `<a>` with targets that make the build fail. I'll look into it later.

File: src/Cat/Monoidal/Strength/Monad.lagda.md [hunk 2]
```diff
@@ -0,0 +1,404 @@
...
+
+```agda
+    strength→monoidal : Lax-monoidal-functor-on Cᵐ Cᵐ M
+    strength→monoidal .ε = η Unit
+    strength→monoidal .F-mult = left-φ
+```
+</summary>
+
+The associator coherence is witnessed by the following ~~monstrosity~~
+commutative diagram.
```
Comment (ncfavier) [inline src/Cat/Monoidal/Strength/Monad.lagda.md:244]: I tried setting `max-width: 100%` for diagrams so that this one has a chance to fit on the page without scrolling, but then 1. it's tiny and 2. it creates margins in the container since it still has a fixed height.

Alternatively we could just get rid of it and point to the Kock paper which has a similar diagram.

File: src/Cat/Monoidal/Monad.lagda.md [hunk 3]
```diff
@@ -0,0 +1,721 @@
...
+    l .functor-strength .left-strength-λ← =
+      M₁ λ← ∘ φ ∘ (η _ ⊗₁ id) ≡˘⟨ refl⟩∘⟨ refl⟩∘⟨ ap (_⊗₁ id) unit-ε ⟩
+      M₁ λ← ∘ φ ∘ (ε ⊗₁ id)   ≡⟨ M-λ← ⟩
+      λ←                      ∎
+    l .functor-strength .left-strength-α→ =
+      M₁ (α→ _ _ _) ∘ φ ∘ (η _ ⊗₁ id)                          ≡˘⟨ refl⟩∘⟨ refl⟩∘⟨ ◀.collapse unit-φ ⟩
+      M₁ (α→ _ _ _) ∘ φ ∘ (φ ⊗₁ id) ∘ ((η _ ⊗₁ η _) ⊗₁ id)     ≡⟨ extendl3 M-α→ ⟩
+      φ ∘ (id ⊗₁ φ) ∘ α→ _ _ _ ∘ ((η _ ⊗₁ η _) ⊗₁ id)          ≡⟨ refl⟩∘⟨ refl⟩∘⟨ associator .Isoⁿ.to ._=>_.is-natural _ _ _ ⟩
+      φ ∘ (id ⊗₁ φ) ∘ (η _ ⊗₁ (η _ ⊗₁ id)) ∘ α→ _ _ _          ≡⟨ refl⟩∘⟨ ⊗.pulll (Σ-pathp (idl _) refl) ⟩
+      φ ∘ (η _ ⊗₁ (φ ∘ (η _ ⊗₁ id))) ∘ α→ _ _ _                ≡⟨ pushr (⊗.pushl (Σ-pathp (sym (idr _)) (sym (idl _)))) ⟩
```
Comment (ncfavier) [inline src/Cat/Monoidal/Monad.lagda.md:284]: It would be nice to have an infix synonym for `Σ-pathp`, for reasoning with bifunctors like `⊗`. Any suggestions for a name?

File: src/Cat/Diagram/Monad/Idempotent.lagda.md [hunk 4]
```diff
@@ -0,0 +1,270 @@
...
+      μ _ ∘ M₁ (μ _) ∘ M₁ (M₁ τ) ∘ M₁ (M₁ (η _ ⊗₁ id)) ∘ M₁ σ ∘ τ ≡⟨ refl⟩∘⟨ refl⟩∘⟨ M.pulll (M.collapse right-strength-η) ⟩
+      μ _ ∘ M₁ (μ _) ∘ M₁ (M₁ (η _)) ∘ M₁ σ ∘ τ                   ≡⟨ refl⟩∘⟨ M.cancell left-ident ⟩
+      μ _ ∘ M₁ σ ∘ τ                                              ∎
+```
+
+If furthermore we are in a [[monoidal category with diagonals]],
+then the [[monoidal functor]] induced by the strength is automatically
+an [[idempotent monoidal functor]].
+
+The proof is by chasing the following slightly wonky diagram.
```
Comment (ncfavier) [inline src/Cat/Diagram/Monad/Idempotent.lagda.md:219]: ::: source
https://www.youtube.com/watch?v=uKeKuaJ4nlw
:::

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/366)

File: src/Cat/Monoidal/Strength/Monad.lagda.md [hunk 5]
```diff
@@ -0,0 +1,404 @@
...
+
+The above program wasn't picked at random -- it witnesses the common
+functional programming wisdom that "every monad is an applicative
+functor[^applicative]", whose theoretical underpinning is that, given a
+*strong* monad $M$, we can equip $M$ with the structure of a [[lax monoidal
+functor]].
+
+[^applicative]: Applicative functors, or *idioms*, are usually defined
+as [[lax monoidal functors]] equipped with a compatible strength (not to
+be confused with [[strong monoidal functors]]).
```
Comment (ncfavier) [inline src/Cat/Monoidal/Strength/Monad.lagda.md:185]: Should we mention `Meta.Idiom` somewhere somehow?

File: src/Cat/Monoidal/Monad.lagda.md [hunk 6]
```diff
@@ -0,0 +1,721 @@
...
+
+A **monoidal monad** on a [[monoidal category]] $\cC$ is a [[monad]] on
+$\cC$ whose underlying endofunctor is also equipped with the structure
+of a [[lax monoidal functor]], in a way that the two structures agree;
+alternatively, it is a [[monad *in*]] the [[bicategory]] of
+monoidal categories, lax monoidal functors and [[monoidal natural
+transformations]].
+
+```agda
+  record Monoidal-monad-on (monad : Monad C) : Type (o ⊔ ℓ) where
```
Comment (ncfavier) [inline src/Cat/Monoidal/Monad.lagda.md:46]: Can we find a better name for this? "Monoidal monad on" could be confused with "monad on a category". `is-monoidal-monad` implies propositionality. `Monoidal-monad-structure`?

**Review by ncfavier — COMMENTED** [review]
(I'll remove the q.uiver links when all is said and done.)

File: src/Cat/Monoidal/Monad.lagda.md (hunk 3 above)
Comment (ncfavier) [reply src/Cat/Monoidal/Monad.lagda.md]: Oh I guess we do have `_,ₚ_`. Great.

File: src/Cat/Monoidal/Strength/Monad.lagda.md [hunk 7]
```diff
@@ -0,0 +1,404 @@
...
...IE0oQlxcb3RpbWVzIE1DKSJdLFs0LDIsIk1BXFxvdGltZXMgTV4yKEJcXG90aW1lcyBDKSJdLFs0LDMsIk1BXFxvdGltZXMgTShCXFxvdGltZXMgQykiXSxbNCw0LCJNKEFcXG90aW1lcyBNKEJcXG90aW1lcyBDKSkiXSxbNCw2LCJNXjIoQVxcb3RpbWVzIChCXFxvdGltZXMgQykpIl0sWzEsMSwiTSgoQVxcb3RpbWVzIE1CKVxcb3RpbWVzIE1DKSJdLFsyLDEsIk0oQVxcb3RpbWVzIChNQlxcb3RpbWVzIE1DKSkiXSxbMiwyLCJNKEFcXG90aW1lcyBNKEJcXG90aW1lcyBNQykpIl0sWzMsMiwiTShBXFxvdGltZXMgTV4yKEJcXG90aW1lcyBDKSkiXSxbMSwyLCJNKE0oQVxcb3RpbWVzIEIpXFxvdGltZXMgTUMpIl0sWzIsMywiTV4yKEFcXG90aW1lcyhCXFxvdGltZXMgTUMpKSJdLFsxLDMsIk1eMigoQVxcb3RpbWVzIEIpXFxvdGltZXMgTUMpIl0sWzIsNCwiTShBXFxvdGltZXMgKEJcXG90aW1lcyBNQykpIl0sWzMsMywiTV4yKEFcXG90aW1lcyBNKEJcXG90aW1lcyBDKSkiXSxbMiw1LCJNKEFcXG90aW1lcyBNKEJcXG90aW1lcyBDKSkiXSxbMyw0LCJNXjMoQVxcb3RpbWVzIChCXFxvdGltZXMgQykpIl0sWzAsMV0sWzAsMl0sWzIsM10sWzMsNF0sWzQsNV0sWzUsNl0sWzYsN10sWzcsOF0sWzEsOV0sWzksMTBdLFsxMCwxMV0sWzExLDEyXSxbMTIsMTNdLFsxMyw4XSxbMiwxNF0sWzEsMTVdLFsxNCwxNV0sWzksMTZdLFsxNSwxNl0sWzEwLDE3XSxbMTYsMTddLFsxNywxMl0sWzE0LDE4XSxbMywxOF0sWzE2LDE5XSxbMTgsMjBdLFsyMCwxOV0sWzIwLDVdLFs1LDIxXSxbMTksMjFdLFs2LDEzXSxbMTksMjJdLFsxNywyMl0sWzIxLDIzXSxbMjMsMTNdLFsyMiwyNF0sWzI0LDEzLCJcXG11IiwyLHsiY3VydmUiOjF9XSxbMjIsMjNdLFsyNCwxMywiTVxcbXUiLDAseyJjdXJ2ZSI6LTF9XV0=
```
Comment (plt-amy) [inline src/Cat/Monoidal/Strength/Monad.lagda.md:247]:
```suggestion
```

File: src/Cat/Monoidal/Strength/Monad.lagda.md (hunk 2 above)
Comment (plt-amy) [reply src/Cat/Monoidal/Strength/Monad.lagda.md:244]: I don't see an issue?

**Review by plt-amy — APPROVED** [review]
